US04617146
29% 2,2,4,5,5,8-Hexamethyl-bicyclo[4.4.0]dec-1(6)-ene.
85 g (0.337 mol) of the 2,2,4,5,5,8-hexamethyl-bicyclo[4.4.0]dec-1(6)-ene-8,9-diol are dissolved at room temperature in 218 ml of pyridine. The solution is now cooled to 0° C. and 30.2 ml of methanesulphonyl chloride are slowly added dropwise during 20 minutes. The mixture is stirred at room temperature for a further 24 hours. The mixture is thereupon diluted with ether and washed with 1.480 l of 2N hydrochloric acid and 400 ml of saturated sodium chloride solution. The aqueous phase is extracted with ether and the combined organic phases are washed neutral with dilute sodium bicarbonate solution, dried over sodium sulphate and evaporated.

reactant | 2,2,4,5,5,8-hexamethyl-bicyclo[4.4.0]dec-1(6)-ene-8,9-diol | 0.337 mol, 85 g | CC1(C=2CC(C(CC2C(C(C1)C)(C)C)(O)C)O)C | C16H28O2
reactant | methanesulphonyl chloride | 30.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 218 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 2,2,4,5,5,8-Hexamethyl-bicyclo[4.4.0]dec-1(6)-ene | CC1(C=2CCC(CC2C(C(C1)C)(C)C)C)C | C16H28
